US05786367
1-(4-Bromobutyl)-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone (1.9 g) was dissolved in 50 ml of acetonitrile, then 2 g of N-methylglycine ethyl ester hydrochloride and 5 ml of triethylamine were added thereto, and stirred at 80° C. for 4 hours. The reaction mixture was extracted with ethyl acetate, the extract was washed with an aqueous solution saturated with sodium bicarbonate, next with water, then concentrated under reduced pressure. Thus obtained oily residual product was subjected to purification by means of a silica gel column chromatography, then dissolved in 10 ml of methanol and 10 ml of 1N-sodium hydroxide aqueous solution, and stirred at 70° C. for 1 hour. After the reaction mixture was cooled, the mixture was acidified by adding hydrochloric acid, further the acidified reaction mixture was made basic by adding 25% ammonia water. This reaction mixture was concentrated under reduced pressure to dryness, thus obtained solid residual product was subjected to extraction by means of Soxhlet's extractor with chloroform as the solvent. The chloroform extract was concentrated under reduced pressure to dryness, and recrystallized from acetone, there was obtained 1-[4-(N-carboxymethyl-N-methyl-amino)butyl ]-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone.

reactant | 1-(4-Bromobutyl)-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone | 1.9 g | BrCCCCN1C(CCC2=C(C(=C(C=C12)CC=C)O)CC=C)=O | C19H24BrNO2
reactant | N-methylglycine ethyl ester hydrochloride | 2 g | Cl.C(C)OC(CNC)=O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia water | O.N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-[4-(N-carboxymethyl-N-methyl-amino)butyl ]-5,7-diallyl-3,4-dihydro-6-hydroxy-2(1H)-quinolinone | C(=O)(O)CN(C)CCCCN1C(CCC2=C(C(=C(C=C12)CC=C)O)CC=C)=O | C22H30N2O4
